US06350762B1
3) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylic acid
224 mg (0.456 mmol) of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylate was dissolved in 4.6 ml of methanol. 0.456 ml of 1 N aqueous sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature overnight. An aqueous potassium hydrogensulfate solution was added to the reaction mixture. Methanol was evaporated under reduced pressure. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=5/1) to obtain the title compound.

reactant | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylate | 0.456 mmol, 224 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(N(CC=CC1=CC=CC=C1)C)=O)C)C)C(=O)OCCC#N | C28H28ClN3O3
reactant | sodium hydroxide | 1 N, 0.456 ml | [OH-].[Na+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 4.6 ml | CO | CH4O
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylic acid | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(N(CC=CC1=CC=CC=C1)C)=O)C)C)C(=O)O | C25H25ClN2O3
